US05773530
To a two-phase mixture of 6-chloro-3-(2-phenylethynyl)pyridazine (2.3 g), N-aminopyridinium iodide (90% purity; 5.3 g), benzyltrimethylammonium chloride (0.20 g), dichloromethane (23 ml), and water (23 ml) was added sodium hydroxide (3.4 g) in one portion. After stirring at ambient temperature overnight, the reaction mixture was treated with concentrated hydrochloric acid followed by dilution with dichloromethane and water. The organic layer was separated, and the aqueous layer was extracted once with dichloromethane. The combined organic layers were washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (elution with 25:1 dichloromethane--ethyl acetate) to give 3-(3-chloropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.92 g).

reactant | 6-chloro-3-(2-phenylethynyl)pyridazine | 2.3 g | ClC1=CC=C(N=N1)C#CC1=CC=CC=C1 | C12H7ClN2
reactant | N-aminopyridinium iodide | [I-].N[N+]1=CC=CC=C1
reactant | sodium hydroxide | 3.4 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | benzyltrimethylammonium chloride | 0.20 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 23 ml | O | H2O
solvent | dichloromethane | 23 ml | ClCCl | CH2Cl2
product | 3-(3-chloropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.92 g | ClC=1N=NC(=CC1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H11ClN4
